US08026085B2
Experimental description: 95 mg propyl 2-(3-chlorophenyl)acetate was dissolved in 500 μL ethanol and added to 250 mL potassium phosphate buffer pH 8.0. Var3-7 was added to the mixture at a final concentration of 1 μM. The mixture was split in 4 mL aliquots into 15 mL scintillation vials equipped with a stir bar. 500 μL of a 5 mM NADPH solution was added to each vial and stirred for 2 minutes. 500 μL of a cofactor regeneration solution containing 300 mM glucose-6-phosphate and 10 units/mL glucose-6-phosphate dehydrogenase were then added to each vial. The resulting mixtures were stirred at room temperature. After 4 hours, the reaction mixtures were joined together and extracted with chloroform (3×100 mL). The organic phase was then dried over magnesium sulfate (MgSO4) and evaporated in vacuo. Purification of the resulting oil by silica gel chromatography (5% ethyl acetate:95% hexane) afforded the activated product ((S)-propyl 2-hydroxy-2-(3-chlorophenyl)acetate, 71 mg). 70 mg (0.3 mmol) of activated product was dissolved in 2 mL dry dichloromethane (CH2Cl2) and a catalytic amount (4 drops) of ethanol was added to the solution. The solution was cooled to −78° C. (dry ice) and then 64 μL DAST (0.45 mmol) was added. The reaction was stirred in dry ice for 12 hours. The reaction mixture was then added with 5 mL saturated sodium bicarbonate (NaHCO3) and extracted with dichloromethane (3×15 mL). The organic phase was then dried over magnesium sulfate (MgSO4) and evaporated in vacuo. Purification of the resulting oil by silica gel chromatography (5% ethyl acetate:95% hexane) afforded the fluorinated product ((R)-propyl 2-fluoro-2-(3-chlorophenyl)acetate) (57 mg, 82% yield, colorless oil) in 89% ee, as determined by chiral GC analysis. 1H-NMR (300 MHz, CDCl3): δ 0.85 (t, J=7 Hz, 3H, —CH3), δ 1.56-1.68 (m, 2H, CH2), δ 4.12 (t, J=6 Hz, 2H, —OCH2), δ 5.72 (d, J=48 Hz, 1H, —CHF), δ 7.32 (br, 3H), δ 7.44 (br, 1H); 13C-NMR (75 MHz, CDCl3): 10.3, 21.9, 67.7, δ 88.7 (d, J=186.5 Hz), 124.8, 126.9, 129.9, 130.3, 134.9. 19F-NMR (282 MHz, CDCl3): δ −182.8 (d, J=48.7 Hz). HRMS (EI+): exact mass calculated for C11H12ClFO2 requires m/z 230.0510, found 230.0502.

reactant | propyl 2-(3-chlorophenyl)acetate | 95 mg | ClC=1C=C(C=CC1)CC(=O)OCCC | C11H13ClO2
reactant | potassium phosphate | 250 mL, pH 8.0 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethanol | 500 μL | C(C)O | C2H6O
product | (S)-propyl 2-hydroxy-2-(3-chlorophenyl)acetate | O[C@H](C(=O)OCCC)C1=CC(=CC=C1)Cl | C11H13ClO3
